US06103910
c) (R)-1-[[1,3-Dibenzyl-3-[2-[(R)-2-carboxy-pyrrolidin-1-yl]-2-oxo-ethyl]-ureido]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 220 mg (0.33 mmol) (R)-1-[[1,3-Dibenzyl-3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-ureido]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 5 ml 4 N hydrochloric acid solution in dioxane was stirred for 5 h at room temperature. The product was extracted with 1 N sodium hydroxide solution, the basic extract was acidified with 1 N hydrochloric acid solution to pH 4 and the product extracted with ethyl acetate. The organic phase was dried (magnesium sulfate) and evaporated to give 74 mg (41%) of the title compound as a brown oil.

reactant | (R)-1-[[1,3-Dibenzyl-3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-ureido]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.33 mmol, 220 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CN(C(=O)N(CC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C37H50N4O7
solvent | hydrochloric acid | 4 N, 5 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-1-[[1,3-Dibenzyl-3-[2-[(R)-2-carboxy-pyrrolidin-1-yl]-2-oxo-ethyl]-ureido]-acetyl]-pyrrolidine-2-carboxylic acid | 74 mg, 41% | C(C1=CC=CC=C1)N(C(=O)N(CC(=O)N1[C@H](CCC1)C(=O)O)CC1=CC=CC=C1)CC(=O)N1[C@H](CCC1)C(=O)O | C29H34N4O7
